Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Naproxen / Nabumetone
 
Attending: ___.
 
Chief Complaint:
Orthostasis, abdominal and back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo female with medical history significant 
for Ulcerative Colitis complicated by iron deficiency anemia, 
Bipolar disorder, GERD, OA, h/o obesity who is presenting after 
an episodic visit at ___ where she was found to be orthostatic 
with BP of 80/70 standing.  The patient originally made the 
appointment because she was having worsening of lower back pain 
which radiates to her lower abdomen. This started a few weeks 
ago.  Initially she attributed it to movement but even at rest 
she continued to have this pain.  She calls it a "strange, dull, 
achy pain," which she thinks started when she began the enemas 
as prescribed by her GI doctor.  She also notes that her 
appetite has been decreased recently.  She had one episode of 
emesis yesterday and the day before yesterday which looked like 
the food she had eaten.  She denies any bilious or bloody 
emesis.  

The patient also notes that she has recently been very dizzy and 
at one point felt that she was going to fall down.  She wears a 
life line at home as she lives alone.  She has chronic fatigue 
which is so bad it interferes with her ability to do ADLs at 
times.  Last week she noted worsening of her hemorrhoids and she 
bought a cream which she thinks was helping.  She is very sore 
from having explosive diarrhea innumerable times a day.  She 
does occasionally have blood in the toilet bowel after a BM, the 
last time this happened was probably yesterday or the day 
before.  Occasionally she takes half a pill of Tylenol for her 
pain.  

She was taking the Mesalamine enemas for the past two weeks as 
directed until she opened the third box of enemas and found that 
the packets were moist inside unlike the dry ones from the first 
boxes.  She stopped using them at that time and took the 
medication to her pharmacy- she was suspicious of using the 
medication. 

To control her diarrhea she usually tries to limit her food and 
fluid intake.  She does this more often when she has plans to 
leave the house though she reports that she has agoraphobia at 
baseline.  She notes significant weight loss and that she used 
to weigh about 300 lbs. 

In the ED, initial vitals 98.9 96 14 98/65 99%RA, pain ___.  
She received a total of 3L IVF and her blood pressure improved 
to 110/65 prior to transfer.  She refused Morphine and tylenol 
both of which were offered for pain control.  A UA was 
concerning for infection, CTX 1g IV was given.  During her stay 
in the ED she asked for assistance with euthanasia, stated she 
wanted to die and that she couldn't live like this.  Psych was 
consulted and the patient was sectioned.  Psychiatry has not 
officially evaluated her at this time but did recommend 1:1 
sitter for suicidality.

On arrival to the floor, patient's vital signs were 98.1 107/50 
73 18 100%RA wt 158.6lbs.  The patient was emotionally labile on 
interview and repeated that she cannot continue to live like 
this.  She does feel cold often but denies any 
fevers/chills/nightsweats.  She does not currently have 
abdominal pain but occasionally gets waves of cramping 
sensation.  Her last BM was prior to transfer to the floor and 
she did not see blood in her stool.  She no longer feels dizzy.  
Again asks about euthanasia, she is religious and does not think 
she would be able to take her own life, she does not have a 
plan.  However, she does think about death often and asks for 
help in controlling her pain. 
  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies  shortness of 
breath, cough, dyspnea or wheezing. Denies chest pain, chest 
pressure, palpitations. Denies dysuria, frequency, or urgency. 
Denies arthralgias or myalgias. Denies rashes or skin changes.  

 
Past Medical History:
BIPOLAR DISORDER (___)
- Labile affect- mood swings, often yells, but not violent. 
- Followed by ___ at ___ 
- h/o suicidality hospitalized ___ at ___.  ___  
COMMON BILE DUCT DILATION                                       
- History of CBD dilation in ___ (14 mm on u/s) 
- MRCP in ___ though patient did not complete MRI as she was 
claustrophobic 
- Did not follow up with GI, Convinced this was related to       

pantoprazole (generic)                                          
GASTROESOPHAGEAL REFLUX                                         
- switched from proton pump inhibitor to famotidine in ___.    
OBESITY s/p abdominoplasty ___ ___                                                
ABNORMAL MAMMOGRAM ___ at ___ showed multiple asymmetric 
tubular structures extending to the nipple, a questionable 
filling defect in the left breast. Ultrasound ___ 
reassuring 
NAFLD                                                
COLITIS                                                         
Diagnosed in ___ by colonoscopy (showing moderate to severe 
colitis) due to BRBPR. Followed by ___ clinic. Last 
sigmoidoscopy in ___. Continued BRBPR small volume with 
diarrhea.
FATIGUE                                                         
Increasing fatigue since ___, with 80 pounds unintentional 
weight loss.                                                    
IRON DEFICIENCY ANEMIA                                          
Diagnosed in ___, low iron, low ferritin, Likely related 
to colitis bleeding, on IV iron 

Surgeries:
s/p ABDOMINOPLASTY  (___)
s/p CHOLECYSTECTOMY
s/p PRIOR CESAREAN SECTION ___
s/p BREAST REDUCTION

 
Social History:
___
Family History:
Mother with ___ dementia, deceased at ___.  She does not 
know her father.  ___ any history of IBD in family.  No 
cancer history.  No history of heart disease or diabetes.  
 
Physical Exam:
Exam on Admission:

Vitals:  T: 98.1 BP: 107/50 HR: 73 RR: 18 02 sat: 100% RA 
GENERAL: NAD, awake and alert, somewhat labile, poor eye contact
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
MMM, O/P clear
NECK:  supple, no JVD  
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use
ABDOMEN: diminished bowel sounds, soft, non-tender, 
non-distended, no rebound or guarding, no HSM
EXT: warm and well-perfused, no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact, strength ___ throughout, 
sensation grossly normal
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Exam on Discharge:

Vitals:  T: 98.5-98.9 100-115/50-60 ___ RA
GENERAL: NAD, awake and alert, poor eye contact, appears 
suspicious of health care team
HEENT: AT/NC
NECK:  supple
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use
ABDOMEN: soft, non-tender, non-distended, no rebound or 
guarding, no HSM
EXT: warm and well-perfused, no cyanosis, clubbing or edema
NEURO: able to walk without obvious deficit  

 
Pertinent Results:
Admission Labs:
___ 03:00PM   SED RATE-59*
___ 03:00PM   PLT COUNT-515*
___ 03:00PM   NEUTS-63.2 ___ MONOS-4.2 EOS-0.8 
BASOS-0.5
___ 03:00PM   WBC-10.7 RBC-4.51 HGB-13.6 HCT-39.2 MCV-87 
MCH-30.2 MCHC-34.7 RDW-13.9
___ 03:00PM   CRP-7.9*
___ 03:00PM   TSH-2.0
___ 03:00PM   ALBUMIN-3.8
___ 03:00PM   LIPASE-23
___ 03:00PM   ALT(SGPT)-24 AST(SGOT)-27 ALK PHOS-81 TOT 
BILI-0.4
___ 03:00PM   GLUCOSE-115* UREA N-9 CREAT-1.0 SODIUM-134 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-23 ANION GAP-14
___ 03:30PM URINE  MUCOUS-RARE
___ 03:30PM URINE  HYALINE-5*
___ 03:30PM URINE  RBC-9* WBC-25* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 03:30PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 03:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___

Labs on Discharge:

___ 07:00AM BLOOD WBC-7.1 RBC-4.01* Hgb-11.4* Hct-35.5* 
MCV-89 MCH-28.5 MCHC-32.2 RDW-14.1 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-92 UreaN-6 Creat-0.8 Na-141 K-3.8 
Cl-109* HCO3-23 AnGap-13
___ 07:00AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.5*

Microbiology:

___ 3:30 pm URINE      RECEIVED AT 1741. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      MANY POLYMORPHONUCLEAR LEUKOCYTES. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

Imaging:
KUB ___ 
HISTORY:  Inflammatory bowel disease, abdominal pain.
TECHNIQUE:  Supine and upright AP views of the abdomen.
 
COMPARISON:  ___bdomen and pelvis ___.
 
FINDINGS:
 
There is no evidence of bowel obstruction or free 
intraperitoneal air .  There
are no dilated loops of small bowel.  The colon has a 
featureless appearance. 
Coarse calcification within the right hemipelvis likely reflects 
a calcified
fibroid.  No acute osseous abnormalities are demonstrated.
 
IMPRESSION:
 
No evidence for bowel obstruction.  Featureless appearance of 
the colon may be
reflective of chronic inflammatory bowel disease.
 

 
Brief Hospital Course:
___ with medical history significant for ulcerative colitis 
complicated by iron deficiency anemia, bipolar disorder, GERD, 
OA, h/o obesity who is presenting after an episodic visit at ___ 
for back/abdominal pain where she was found to be orthostatic 
with likely colitis flare.

Active Issues:

# Colitis flare: c/w with likely IBD as diagnosed in ___, 
followed by GI outpatient. Had been on Mesalamine enema but it 
seems that she stopped medication on her own ~ 2 weeks prior to 
admission because she felt that they were not helping.  GI was 
consulted, felt presentation was c/w indeterminate colitis vs 
recurrent infection.  Stool studies were ordered.  C. diff was 
negative, other studies including O+P, giardia, vibrio, 
yersinia, e.coli and campylobacter were also negative.  She was 
started on a two week course of oral Cipro/Flagyl.  Patient has 
follow up in place with Dr. ___ as well as Dr. ___.

# Orthostasis: Symptomatic orthostatic hypotension largely 
resolved with IVF. Patient reports both poor PO intake as well 
as increased episodes of diarrhea.  On day of discharge patient 
denied any symptoms of dizziness or light headedness and was 
ambulating without difficulty. 

# Suicidal Ideation: Patient with passive suicidal ideation on 
admission interview, asking for patient advocate to discuss 
euthanasia.  H/o of suicidality and hospitalization in ___ 
at ___.  She does not currently have plan.  Repeat Psych 
evaluation there was no concern for active suicidality, more 
likely just frustration with her symptoms. 
 
# Possible UTI: c/o mild dysuria on admission, however urine 
culture negative.  

# Back pain:  The patient describes pain in her left flank, 
cramping, worsening in the last several days which is why she 
made appt at ___.  Likely secondary to colitis flare vs. 
musculoskeletal.  She did not require any pain medications this 
admission and the pain seemed to improve with time and treatment 
of colitis. 

# Provision of Care:  The patient attributes her worsening 
symptoms to several of her medications, particularly mesalamine 
PO and PR.  She is resistant to using other medications other 
than Cipro/Flagyl, to which she attributes her one symptom-free 
period several years ago.  Review of records and communication 
with PCP reveals ___ history of challenging interactions in which 
she has made attributions about the intentions or behavior of 
her providers.  Patient Relations is familiar with the patient 
and saw her this admission.   Recommended group rounding where 
possible which seemed to work best.  Still throughout admission 
she had outbursts towards health care providers and frequently 
left the room mid interview or refused to interact with health 
care team.  

Chronic Issues:

# Anxiety/Bipolar Disorder: patient managed by ___ at 
___.  No current antidepressants but is on 
Klonipin which she continued per her outpatient regimen. 

# Iron deficiency Anemia:  Has required iron infusions per 
patient in past, most recently on ___ and ___, now on MVI 
with iron. Has plan to follow up with Hematology in four months. 
 Stable this admission.

# Fatigue: likely related to chronic disease, anemia and 
depression.  Patient's last TSH wnl ___ at 2.1, recheck this 
admission still normal. 

# GERD: not currently medicated.  Patient discharged on Tums for 
symptomatic treatment.  She did not like the Famotidine she had 
been taking previously. 

Transitional Issues:
- Patient to follow up in GI clinic for further evaluation of 
her colitis and possible treatment beyond antibiotic course. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO AT 1PM DAILY 
2. ClonazePAM 1 mg PO AT 6PM DAILY 
3. ClonazePAM 1 mg PO QHS 
4. Lidocaine 5% Ointment 1 Appl TP BID:PRN pain 
5. Mesalamine Enema 4 gm PR HS 
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
7. multivitamin with iron 1 tablet oral daily 

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO AT 1PM DAILY 
2. ClonazePAM 1 mg PO AT 6PM DAILY 
3. ClonazePAM 1 mg PO QHS 
4. Lidocaine 5% Ointment 1 Appl TP BID:PRN pain 
5. Calcium Carbonate 500 mg PO QID:PRN dyspepsia 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 
tablet,chewable(s) by mouth four times a day Disp #*120 Tablet 
Refills:*0
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
7. multivitamin with iron 1 tablet oral daily 
8. Ciprofloxacin HCl 500 mg PO Q12H Duration: 13 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*26 Tablet Refills:*0
9. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight hours 
Disp #*39 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
colitis flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for you at ___ 
___.  You came to the hospital with dizziness and low 
blood pressure, probably due to worsening of your colitis.  You 
were treated with IV fluids and antibiotics.  A stool sample is 
being tested for several bacterial infections.  Your 
gastroenterologist will follow-up with you on these tests and 
adjust your medication as necessary.

Please follow-up with your doctors as listed below.  

We have added two antibiotics to your medication list.  Please 
take these as directed until you have completed the full course 
of treatment.  
 
Followup Instructions:
___